US04874792
(d) 2-[7-(3-trifluoromethylphenylthio)heptyl]benzaldehyde
To N,N-dimethylformamide (30 ml) and 2-(7-bromoheptyl) benzaldehyde (1.5 g, 5 mmoles) was added a solution of 3-trifluoromethylthiophenol (1.0 ml, 8 mmoles) and triethylamine (3.0 ml, 0.02 mole) in N,N-dimethylformamide (20 ml). The reaction was heated to 90° C. for 1 hour and then stirred for 11/2 hours while slowly cooling to room temperature. The mixture was diluted with toluene and evaporated, followed by dilution with methylene chloride. The solution was evaporated and flash chromatographed using 8% ethyl acetate in hexane to give the desired product.

reactant | 2-(7-bromoheptyl) benzaldehyde | 5 mmoles, 1.5 g | BrCCCCCCCC1=C(C=O)C=CC=C1 | C14H19BrO
reactant | 3-trifluoromethylthiophenol | 8 mmoles, 1.0 ml | FC(C=1C=C(C=CC1)S)(F)F | C7H5F3S
reactant | triethylamine | 0.02 mole, 3.0 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-[7-(3-trifluoromethylphenylthio)heptyl]benzaldehyde | FC(C=1C=C(C=CC1)SCCCCCCCC1=C(C=O)C=CC=C1)(F)F | C21H23F3OS
